US05639752
H. 3-(2-Dimethylaminoethyl)-5-(2,4-dinitrophenylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 1-chloro-2,4-dinitrobenzene were used. Triethylamine was used as base, tetrahydrofuran was used as solvent, and the reaction was stirred at room temperature for 2 hours. Chromatography afforded the title compound (73%) as a dark red solid: mp, 177.0°-179.0° C.; 13C NMR (DMSO-d6) δ148.2, 135.6, 135.2, 130.1, 129.6, 128.2, 127.9, 124.3, 123.5, 119.6, 116.9. 116.3, 113.3, 112.5, 60.0, 45.2, 23.0; FAB HRMS calculated for C18H19N5O4.[H+ ]370.1517, found 370.1492.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 1-chloro-2,4-dinitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-Dimethylaminoethyl)-5-(2,4-dinitrophenylamino)-1H-indole | 73% | CN(CCC1=CNC2=CC=C(C=C12)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C | C18H19N5O4
